US06846833B2
Step a: tert-Butyl 2-(4,5,6,7-tetrahydro-3H-azepin-2-yl)ethylcarbamate
A solution of N-tert-butoxycarbonyl-1,3-propanediamine (2 g; 11.48 mmol), described in Step a of Preparation A, in 1 ml of ethanol is added to a solution of 2-methoxy-4,5,6,7-tetrahydro-3H-azepine (1.46 g; 11.48 mmol; 1.7 ml) in 4 ml of absolute ethanol. After stirring for 8 hours at ambient temperature, the reaction mixture is concentrated to yield the expected product.

reactant | N-tert-butoxycarbonyl-1,3-propanediamine | 11.48 mmol, 2 g | C(C)(C)(C)OC(=O)NCCCN | C8H18N2O2
reactant | 2-methoxy-4,5,6,7-tetrahydro-3H-azepine | 11.48 mmol, 1.7 ml, 1.46 g | COC1=NCCCCC1 | C7H13NO
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | tert-Butyl 2-(4,5,6,7-tetrahydro-3H-azepin-2-yl)ethylcarbamate | N1=C(CCCCC1)CCNC(OC(C)(C)C)=O | C13H24N2O2
